US08012985B2
2-methylsulphanyl-3,4,5,6-tetrahydropyrimidinium iodide
The reaction mixture comprising one equivalent of 3,4,5,6-tetrahydro(1H)pyrimidine-2-thione and 1.2 equivalents of iodomethane in methanol (10 ml/g of thio-urea) is heated under reflux for 5 hours. After cooling down, the methanol is evaporated off under reduced pressure in order to quantitatively produce the product. The precipitate can then be washed in acetone or petroleum ether.

reactant | 3,4,5,6-tetrahydro(1H)pyrimidine-2-thione | one equivalent | N1C(NCCC1)=S | C4H8N2S
reactant | iodomethane | 1.2 equivalents | IC | CH3I
solvent | methanol | CO | CH4O
product | 2-methylsulphanyl-3,4,5,6-tetrahydropyrimidinium iodide | [I-].CSC1=[NH+]CCCN1 | InChI=1S/C5H10N2S.HI/c1-8-5-6-3-2-4-7-5;/h2-4H2,1H3,(H,6,7);1H
